Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lip swelling, right are superficial cellulitis 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of IVDU 
(polysubstance use history per ___ notes, cocaine, 
benzodiazapines, ETOH, marijuana and tobacco) and history of 
multiple abscesses with retained needles and SI due to the death 
of her boyfriend who originally presented to the ___ 
___ on ___ for right upper lip swelling and pain who is 
now presenting to ___ for further management of this issue.  

She says that her lip swelling began two days prior to her 
original presentation to ___ after she "popped a pimple" at 
the site. She does note some associated drainage at the site and 
difficulty swallowing. She also endorses a subjective fever at 
home of ___. She then presented to the ___ where according 
to her report they planned to admit her, but since she felt that
there care was not in her favor she left. She was treated with 
doxy, levofloxacin and flagyl at the OSH and had a CT maxillary 
facial with no signs of abscess.  

She was admitted to the ___ ___ and left AMA stating 
she needed to get high and she would come back to the ED. Below 
summarizes the ___ course: 

Per the ___ note denied EtOH use and history of EtOH 
withdraw. Noted to HIV negative in the past. Told ___ MDs 
that she uses 1g heroin per day. She was last seen in the ___ 
two weeks ago with a LUE abscess. Imaging of the arm did not 
show a retained object. She eloped from the ED before getting 
I&D or
antibiotics. Per ___ notes, she reported to the physicians 
there she went to another ED and received antibiotic course for 
this abscess that she completed. Per ___ note, she was also 
reportedly found in a dount shop somnolent and reported from the 
ED and eloped.  Per ___ notes, Patient had I&D of the RUE 
and completed a course of Keflex and Bactrim; no cultures were 
sent at that time. Per ___ notes, she reported to the 
emergency department of ___ in the setting of the death of her 
boyfriend seen by psych and did not meet ___. 

Of not the ED reports that the patient last used IVD this 
morning in the right upper extremity.  

In the ED it was also noted that her left upper extremity in the 
deltoid region was swollen. It was painful to movement and 
overlying palpation.  

At the ___, prior to arrival to the ___ ED she received 
Doxycycline 100 mg , levofloxacin 750 mg, metron idazole 500 mg 
on ___ received ceftriaxone and clindamycin on ___. 
For control of her opoid withdraw she received oxycodone 10 mg 
clonidine, trazodone 50 mg. 

Labs at the ___ showed 
WBC 13K 
Hgb 14.9 
Plt 341 
Sodium 133
HCl- 95 K+ 4.0 Cr 0.5 Glucose 108

Serum HCG negative <2

Urine toxic: 
+ amphetamines, THC, fentanyl 

CT face w/ contrast was completed that demonstrated soft tissue
swelling and subcutaneous stranding over the maxilla, no focal
fluid consolidation.  

Patient then reported to the ___ ED. 
 
In the ED, initial VS were:  
Temp 98.9 HR 109 BP 134/85 RR 15 02 97% RA  
Exam notable for: edema and tenderness of the left humerus. 
Equal
pulses and good grip strength. Full range of motion of all
joints. Swelling over the upper lip with poor dentition.  
EKG: none  
Labs showed: WBC 16.6, Hgb/Hct 14.5/43.5 plt 467  
NA 133 K 6.5 (rpt 4.6) Cl 104 HC03 25 Lactate 2.0  
Blood cultures X3 pnd  
Imaging showed:  
Left Upper extremity US:  
IMPRESSION:  
1. No evidence of deep vein thrombosis in the left upper
extremity.  
2. A 0.9 x 4.9 x 4.3 cm heterogeneous fluid collection in the
left rm corresponding to patient's area of pain, in the absence
of recent trauma, is concerning for abscess.  
Consults: None  
Patient received:  
___ 04:30 IV Vancomycin (1000 mg ordered)  
Transfer VS were:  98.2 PO 126/79 R Lying 89 18 99 Ra 

On arrival to the floor, patient reports pt states "she is 
withdrawing bad, I got to get out of here". She endorses goose 
bumps, nausea, total body pain. She states her lip hurts and 
that is reason she came back to the ED. She states that she was 
previously on methadone 50 mg daily "a while ago". She states 
that last time she used was approx. ___ hr prior to reporting to 
the ___ ED and she injected, doesn't remember where, doesn't 
remember how much. She notes that she has been in detox before. 
She doesn't remember being in the hospital before or prior 
infections/operations. She is not focused enough to answer 
further questions. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  
 

 
Past Medical History:
- Past Abscesses  
- cellulitis  
- IV drug use disorder  
- opioid use with withdrawal  
 
Social History:
___
Family History:
unable to obtain
 
Physical Exam:
VS:  98.1 PO 96/63 R Lying 80 16 97 Ra 
GENERAL: Anxious appearing, constantly moving, alert but 
tangential 
HEENT: Mildly dilated pupils. Upper lip swelling on the right 
with puncture site at lip with surrounding soft tissue swelling, 
no crepitus. 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Hyperactive bowel sounds 
EXTREMITIES: RUE with swelling and multiple skin puncture sites. 
sore to touch able to move fingers arms. ___ with multiple tract 
markers.  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
 
Pertinent Results:
====================
LABS ON ADMISSION 
===================
___ 04:07AM BLOOD WBC-16.6* RBC-5.05 Hgb-14.5 Hct-43.5 
MCV-86 MCH-28.7 MCHC-33.3 RDW-14.4 RDWSD-45.0 Plt ___
___ 04:07AM BLOOD Neuts-66 Bands-5 ___ Monos-4* Eos-3 
Baso-1 ___ Myelos-0 AbsNeut-11.79* AbsLymp-3.49 
AbsMono-0.66 AbsEos-0.50 AbsBaso-0.17*
___ 04:07AM BLOOD Plt Smr-HIGH* Plt ___
___ 04:07AM BLOOD Glucose-108* UreaN-11 Creat-0.6 Na-133* 
K-6.5* Cl-104 HCO3-25 AnGap-4*
___ 07:00AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.6
___ 07:00AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 07:00AM BLOOD HIV Ab-NEG
___ 04:07AM BLOOD Bnzodzp-NEG Barbitr-NEG
___ 07:00AM BLOOD HCV Ab-POS*
___ 04:17AM BLOOD Lactate-2.0 K-4.6

========
MICRO
========
___ BCx 2x NGTD 
HIV neg 
Hep Immune 
HCV antibody positive 
Syphilis pending 

==============
DISCHARGE LAB 
==============
___ 07:00AM BLOOD WBC-10.5* RBC-5.27* Hgb-14.7 Hct-45.5* 
MCV-86 MCH-27.9 MCHC-32.3 RDW-14.5 RDWSD-45.7 Plt ___
___ 07:00AM BLOOD Plt Smr-HIGH* Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-12 Creat-0.6 Na-137 
K-5.0 Cl-98 HCO3-25 AnGap-14
___ 07:00AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.6

=======
IMAGING
======
___ Right Up Extremity Ultrasound 
1.  No evidence of deep vein thrombosis in the left upper 
extremity. 
2.  9.9 x 4.9 x 4.3 cm heterogeneous fluid collection in the 
left arm 
corresponding to patient's area of pain, which could represent 
abscess or 
hematoma. 
EKG with QTc 390 otherwise normal 
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of IVDU 
(polysubstance use history per ___ notes, cocaine, 
benzodiazapines, ETOH, marijuana and tobacco) and history of 
multiple abscesses with retained needles and SI due to the death 
of her boyfriend who originally presented to the ___ 
___ on ___ for right upper lip swelling and pain who is 
now presenting to ___ for further management of this issue. 
During this admission, patient received 40 mg methadone on ___ 
and 30 mg methadone on ___. 

# Left AMA 
She was awaiting discharged a left the hospital before the nurse 
could bring the paperwork in the room. Addiction social work 
obtain contact number and reached out to patient after she left 
the hospital without response. Patient's PCP called and message 
left with the on call doctor. The patient did leave the hospital 
with resources on who to call for help with her addiction and 
with a packet on clean needles. 

# Right Lip Cellulitis 
# C/f herpes 
She was given 24 hrs vancomycin and transitioned to oral 
antibiotics Keflex and Bactrim for 10 day cours. While inpatient 
she was tested for HIV which and negative, HepB and she is hepB 
immune. 

# Superficial pheblitis 
Patient with a right arm injection site with small 
pheglemon/hematoma on ultrasound not amenable to I&D. Given 
Keflex/Bactrim as above. 

# Opoid Use Disorder
Patent was seen by the addiction psych team while inpatient who 
achieved the following: 
1.  Discussed aftercare options.  The patient might be able to 
get into an inpatient detoxification as she received some 
methadone today, will require a short taper.  We offered to 
assist her in getting into a detox but she declined our
assistance.
2.  Discussed medication-assisted treatment including 
buprenorphine, methadone, and naltrexone.  The patient does not 
want any of these medications.  She has tried buprenorphine and 
methadone in the past.  She has not tried injectable naltrexone, 
but is not amenable to trying it at this point.  We explained 
that she would need a seven-day period of abstinence prior to 
initiating injectable naltrexone.
3.  Recommend providing Narcan prescription for the patient.
4.  Educated the patient about the importance of having a 
primary care doctor.  She has received some care at the ___ 
in the past and we will contact ___ and to try to arrange 
for her to have her primary care there.

====================
FOLLOW UP 
=====================
-- HCV viral load 
-- RUE ultrasound after completion of antibiotics 
-- Addiction counseling. 
 
Medications on Admission:
None 
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 10 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*40 Capsule Refills:*0 
2.  Narcan (naloxone) 4 mg/actuation nasal ONCE  
RX *naloxone [Narcan] 4 mg/actuation 1 Spray Nostril ONCE Disp 
#*2 Spray Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 10 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth two times daily Disp #*20 Tablet Refills:*0 
4.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lip Cellulitis 
RUE phaglmon 
Opioid use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for infection in your lip and 
your arm. We performed an ultrasound of your arm that shows an 
area of infection that does not need surgery but does need 
treatment with antibiotics. Please continue your antibiotics as 
prescribed below (Keflex and Bactrim) until ___. You 
should also take a medication called valacyclovir to prevent 
viral infections as prescribed until ___. 

If you notice the swelling on your arm worsening, the swelling 
in your lip worsening, shortness of breath, trouble breath or 
fevers, shakes, chills please report immediately back to the 
emergency department. 

We hope that you would abstain from drugs as abstaining from 
drugs will save your life. However, should you choose to use, 
please ensure that you are using clean needles. Please see the 
instructions for clean needle use provided to you on discharge. 

If you are looking for help on your road to abstinence we 
provided phone numbers for resources: 
-- Substance Abuse Help Line ___
-- PAATHS ___
-- Narotics Anonymous ___

WE GAVE YOU A PRESCRIPTION FOR NARCAN THIS IS A MEDICATION THAT 
CAN SAVE YOUR LIFE. IF YOU ARE WORRIED YOU OVERDOSE SPRAY NARCAN 
INTO NOSTRIL CALL ___. GIVE THE SECOND PACKAGE TO A FRIEND AND 
INFORM THEM TO SPRAY NARCAN IN YOUR NOSTIL IF THEY CANNOT WAKE 
YOU. 
 
Followup Instructions:
___